US09238639B2
A) (2-Chloro-4-((triisopropylsilyl)oxy)phenyl)methanol
To a mixture of methyl 2-chloro-4-hydroxybenzoate (4.43 g) and 2,6-lutidine (6.64 mL) in DCM (50 mL) cooled with an ice bath was added triisopropylsilyl trifluoromethanesulfonate (7.66 mL). After being stirred at 0° C. for 1 h, saturated aqueous NaHCO3 was added thereto. The mixture was diluted with Et2O and layers were separated. The aqueous layer was extracted with Et2O. The combined organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane). The product was dissolved in diethyl ether (175 mL). To the solution cooled with an ice bath was added lithium aluminum hydride (1.08 g). After being stirred at 0° C. for 30 min, sodium sulfate decahydrate was added thereto. The mixture was filtered through a pad of celite. The filtrate was concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (6.87 g).

reactant | methyl 2-chloro-4-hydroxybenzoate | 4.43 g | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
reactant | 2,6-lutidine | 6.64 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropylsilyl trifluoromethanesulfonate | 7.66 mL | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (2-Chloro-4-((triisopropylsilyl)oxy)phenyl)methanol | 6.87 g | ClC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)CO | C16H27ClO2Si
